US06060462
Phosgene (6.0 mL of a 1.93 M solution in toluene (PhCH3), 12.0 mmol) was added to a solution of 2-hydroxy-1-phenethylamine (1.18 g, 8.60 mmol) in PhCH3 (100 mL) at 0° C. followed by the dropwise additon of Et3N (1.80 mL, 13.0 mmol). The reaction mixture was warmed to room temperature over 48 h and poured into EtOAc (ca. 200 mL). The layers were separated and the aqueous was extracted with EtOAc (1×50 mL). The combined organics were washed with saturated aqueous NaCl (1×100 mL), dried (Na2SO4) and concentrated under reduced pressure to give 5-phenyl-2-oxazolidinone (1.05 g) as a solid in 75% yield. (1H NMR, 300 MHz) d 7.39 (comp, 5H), 5.69 (br s, 1H), 5.63 (dd, 1H, J=8.4, 8.1 Hz), 3.99 (dd, 1H, J=8.4, 8.1 Hz), 3.55 (dd, 1H, J=8.4, 8.1 Hz). LRMS 181 (M+NH4), 164 (M+H).

reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
reactant | Et3N | 13.0 mmol, 1.80 mL | CCN(CC)CC | C6H15N
reactant | EtOAc | ca. 200 mL | CCOC(=O)C | C4H8O2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | PhCH3 | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 5-phenyl-2-oxazolidinone | 1.05 g, 75% yield | C1(=CC=CC=C1)C1CNC(O1)=O | C9H9NO2
